US08026257B2
(±)-tert-Butyl 4-((1-(3-bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate.
(±)-1-(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate (1.29 g, 2.21 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (0.71 g, 2.43 mmol) were combined in a dichloromethane/cyclohexane mixture (1:1, 8 mL) and cooled to 0° C. The reaction was treated with tetrafluoroboric acid-diethyl ether complex (60 μL, 0.44 mmol), stirred at 0° C. for 1 h, quenched by addition of saturated sodium bicarbonate and diluted with diethyl ether and the layers separated. The ethereal was washed with water (2×), 1 M potassium bisulfate (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (10% ethyl acetate/hexanes) gave 840 mg (53%) as a yellow film. 1H-NMR (CDCl3, 500 MHz) δ 7.82 (s, 1H), 7.54 (s, 1H), 7.24-7.27 (m, 2H), 7.18-7.22 (m, 3H), 5.51 (s, 2H), 5.07 (q, J=6.4 Hz, 1H), 3.74 (m, 2H), 3.44-3.51 (m, 2H), 3.27 (d, J=9.2 Hz, 1H), 3.24 (d, J=9.2 Hz, 1H), 2.99-3.03 (m, 2H), 2.11-2.16 (m, 2H), 1.82-1.88 (m, 2H), 1.50 (d, J=6.4 Hz, 3H), 1.43 (s, 9H), 0.70-0.83 (m, 2H), 0.08 (s, 9H). Mass spec.: 736.03 (MNa)+.

reactant | (±)-1-(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | 2.21 mmol, 1.29 g | ClC(C(OC(C)C1=CC(=CC2=C(N(N=C12)COCC[Si](C)(C)C)Br)C(F)(F)F)=N)(Cl)Cl | C18H22BrCl3F3N3O2Si
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 2.43 mmol, 0.71 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
solvent | dichloromethane cyclohexane | 8 mL | ClCCl.C1CCCCC1
product | (±)-tert-Butyl 4-((1-(3-bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C33H45BrF3N3O4Si
